US07488746B2
(2,4-Dichloro-thiophen-3-yl)-(5-fluoro-1H-benzoimidazol-2-yl)-amine-hydrochloride
1-(2-Amino-4-fluoro-phenyl)-3-(4-chloro-thiophen-3-yl)-thiourea (625 mg) was dissolved in THF and a solution of NaOH (0.207 g) in water (9 ml) was added. Within 5 min a solution of p-toluenesulfonyl chloride (0.395 g) in THF (10 ml) was added dropwise. After stirring for one hour at room temperature water and ethyl acetate were added to the reaction mixture. The organic layer was separated and the aqueous phase was extracted three times with ethyl acetate. The combined organic layers were dried (MgSO4), treated with charcoal, filtered and the solvent evaporated to yield the desired product (135 mg).

reactant | 1-(2-Amino-4-fluoro-phenyl)-3-(4-chloro-thiophen-3-yl)-thiourea | 625 mg | NC1=C(C=CC(=C1)F)NC(=S)NC1=CSC=C1Cl | C11H9ClFN3S2
reactant | NaOH | 0.207 g | [OH-].[Na+]
reactant | p-toluenesulfonyl chloride | 0.395 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 9 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (2,4-Dichloro-thiophen-3-yl)-(5-fluoro-1H-benzoimidazol-2-yl)-amine-hydrochloride | 135 mg | Cl.ClC=1SC=C(C1NC1=NC2=C(N1)C=CC(=C2)F)Cl | InChI=1S/C11H6Cl2FN3S.ClH/c12-6-4-18-10(13)9(6)17-11-15-7-2-1-5(14)3-8(7)16-11;/h1-4H,(H2,15,16,17);1H
